US07727985B2
N-(6-chloro-7-methoxy-9H-β-carbolin-8-yl)-2-methyl-nicotinamide
6-chloro-7-methoxy-9H-β-carbolin-8-ylamine (100 mg, 0.4 mmol), EDCI (125 mg, 0.64 mmol) and 2-methyl nicotinic acid (66 mg, 0.48 mmol) were taken in a round-bottom flask and suspended in pyridine (2 ml). The resulting mixture was heated at 80° C. overnight. The pyridine was then removed by rotary evaporation and 5% Na2CO3 solution was added. The resulting solid that precipitated out was collected by filtration. Chromatographic purification gave the desired product in 50-70% yield.

reactant | 6-chloro-7-methoxy-9H-β-carbolin-8-ylamine | 0.4 mmol, 100 mg | ClC=1C=C2C=3C=CN=CC3NC2=C(C1OC)N | C12H10ClN3O
reactant | EDCI | 0.64 mmol, 125 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2-methyl nicotinic acid | 0.48 mmol, 66 mg | CC1=C(C(=O)O)C=CC=N1 | C7H7NO2
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | N-(6-chloro-7-methoxy-9H-β-carbolin-8-yl)-2-methyl-nicotinamide | 50-70% yield | ClC=1C=C2C=3C=CN=CC3NC2=C(C1OC)NC(C1=C(N=CC=C1)C)=O | C19H15ClN4O2
